US03950380
C. 3-benzyloxy-5-nitro-4-phenylbenzoic acid
A mixture of 3-hydroxy-5-nitro-4-phenylbenzoic acid (3.0 g), benzylbromide (1.5 ml) and 1 N sodium hydroxide (30 ml) is stirred at room temperature for 6-7 hours. After cooling, the precipitated sodium 3-benzyloxy-5-nitro-4-phenylbenzoate is collected by filtration and washed with a small amount of icecold water. After drying, the sodium salt is dissolved in hot water (100 ml), and the 3-benzyloxy-5-nitro-4-phenylbenzoic acid is precipitated by addition of 4 N hydrochloric acid (10 ml). After cooling, the acid is collected by filtration, washed with water and dried. After recrystallization twice from isopropanol, it is obtained with a melting point of 188.5°-189.5° C.

reactant | 3-hydroxy-5-nitro-4-phenylbenzoic acid | 3.0 g | OC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C13H9NO5
reactant | benzylbromide | 1.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | sodium hydroxide | 1 N, 30 ml | [OH-].[Na+]
product | 3-benzyloxy-5-nitro-4-phenylbenzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C20H15NO5
